US07888364B2
1 g of 4-(chlorosulfonyl)benzoic acid was reacted with 931 mg of tert-butyl piperazine-1-carboxylate via Procedure H. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 150 mg of 4-(4-(tert-butoxycarbonyl)piperazin-1-ylsulfonyl)benzoic acid via Procedure G. The crude product was subjected to basic workup conditions, treated with TFA to remove the Boc group and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(piperazin-1-ylsulfonyl)benzamide. MS (Q1) 457.1 (M)+.

reactant | 4-(chlorosulfonyl)benzoic acid | 1 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | tert-butyl piperazine-1-carboxylate | 931 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(4-(tert-butoxycarbonyl)piperazin-1-ylsulfonyl)benzoic acid | 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C16H22N2O6S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(piperazin-1-ylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1)=O)C1=NC=CC=C1 | C22H21ClN4O3S
